US07700655B2
(1) 5-Acetyl-2-methoxybenzoic acid methyl ester
A mixture of 5-acetylsalicylic acid methyl ester (5.00 g, 25.7 mmol), sodium carbonate (7.10 g, 51.4 mmol) and N,N-dimethylformamide (25 mL) was cooled with ice bath. Methyl iodide (2.5 mL, 40.1 mmol) was added, and the mixture was stirred at room temperature for 3 hours. The reaction mixture was poured into water, neutralized by hydrochloric acid, and extracted with ethyl acetate. After the organic layer was washed with water and brine, dried over anhydrous sodium sulfate, the residue obtained by evaporation under reduced pressure was washed under suspension (isopropyl ether/n-hexane) to give the title compound (5.17 g, 96.5%) as a white crystal.

reactant | 5-acetylsalicylic acid methyl ester | 25.7 mmol, 5.00 g | COC(C=1C(O)=CC=C(C1)C(C)=O)=O | C10H10O4
reactant | sodium carbonate | 51.4 mmol, 7.10 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | Methyl iodide | 40.1 mmol, 2.5 mL | CI | CH3I
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | 5-Acetyl-2-methoxybenzoic acid methyl ester | 5.17 g, 96.5% | COC(C1=C(C=CC(=C1)C(C)=O)OC)=O | C11H12O4
